US07678801B2
3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide
The title compound was prepared from 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid by following the procedures in Example 19 using 2-propanamine for the amide formation and N,N,N′-trimethyl-1,3-propanediamine for the displacement reaction (88%). LC-MS (ES) m/z 549 (M+H)+; 1H-NMR(MeOD) δ 1.27 (d, 6H), 1.60 (m, 1H), 1.80 (m, 1H), 2.06 (m, 1H), 2.22 (m, 6H), 2.33 (m, 4H), 2.86 (m, 1H), 3.19 (m, 2H), 3.40 (m, 1H), 3.70 (m, 1H), 4.30 (m, 1H), 6.00 (m, 1H), 6.33 (d, 1H), 7.10 (t, 2H), 7.30 (m, 2H), 7.42 (d, 1H), 7.48 (m, 1H), 7.66 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | 2-propanamine | CC(C)N | C3H9N
reactant | N,N,N′-trimethyl-1,3-propanediamine | CN(CCCNC)C | C6H16N2
product | 3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)N(C)CCCN(C)C)=O | C30H34F2N6O2
